US04929613
Ethyl α-(ethoxymethylene)-2,5-difluoro-4-(1-methyl-4-piperidinyl)-β-oxobenzenepropanoate.
A solution of 3.25 g (10 mmoles) of ethyl 2,5-difluoro4-(1-methyl-4-piperidinyl)-β-oxobenzenepropionate in 20 ml of acetic anhydride and 2.5 ml of triethyl orthoformate was refluxed 11/4 hours and evaporated under vacuum to give the title compound.

reactant | ethyl 2,5-difluoro4-(1-methyl-4-piperidinyl)-β-oxobenzenepropionate | 10 mmoles, 3.25 g | FC1=C(C=C(C(=C1)C1CCN(CC1)C)F)C(CC(=O)OCC)=O | C17H21F2NO3
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethyl orthoformate | 2.5 ml | C(OCC)(OCC)OCC | C7H16O3
product | Ethyl α-(ethoxymethylene)-2,5-difluoro-4-(1-methyl-4-piperidinyl)-β-oxobenzenepropanoate | C(C)OC=C(C(=O)OCC)C(C1=C(C=C(C(=C1)F)C1CCN(CC1)C)F)=O | C20H25F2NO4
